US05114944
N-Methyl-2-phenylpyrazolo[1.5-a]pyrimidine-3-acetamide
A mixture of 3.5 g (0.013 mole) of 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid and 2.24 g (0.013 mole) of 1,1'-carbonyldiimidazole in 150 ml of anhydrous tetrahydrofuran was stirred for 3 hours under a nitrogen atmosphere. A solution of monoethylamine in tetrahydrofuran (16 ml; 0.041 mole; 2.59M) was added, and the mixture was stirred at room temperature for one hour. Water (50 ml) was added to dissolve a precipitate that had formed. The solvents were evaporated under reduced pressure, and the residue was triturated in isopropanol to give 2.96 g of solid, mp 211°-213° C. Recrystallization from a mixture of isopropanol and water provided 2.58 g (70%) of product, mp 212°-214° C.

reactant | 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.013 mole, 3.5 g | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H11N3O2
reactant | 1,1'-carbonyldiimidazole | 0.013 mole, 2.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | monoethylamine | C(C)N | C2H7N
reactant | Water | 50 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.041 mole, 2.59M, 16 ml | O1CCCC1 | C4H8O
product | N-Methyl-2-phenylpyrazolo[1.5-a]pyrimidine-3-acetamide | 2.96 g | CNC(CC=1C(=NN2C1N=CC=C2)C2=CC=CC=C2)=O | C15H14N4O
